US07968557B2
To a solution of 2-chloro-7-pyridin-2-yl-7H-pyrrolo[2,3-d]pyrimidine in 1,4-dioxane is added 3,4,5-trimethoxy aniline (3 equivalents) followed by adding potassium tert-butoxide solution (1.0 M in tetrahydrofuran, 3 equivalents) dropwise. After addition, the reaction mixture is heated at 80° C. for 2 hours. The solvent is removed after cooling to room temperature. Purification by reverse phase HPLC gives (7-pyridin-2-yl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine as a white solid.

reactant | 2-chloro-7-pyridin-2-yl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1N=CC2=C(N1)N(C=C2)C2=NC=CC=C2 | C11H7ClN4
reactant | 3,4,5-trimethoxy aniline | 3 equivalents | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | potassium tert-butoxide | 1.0 M, 3 equivalents | CC(C)([O-])C.[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (7-pyridin-2-yl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine | N1=C(C=CC=C1)N1C=CC2=C1N=C(N=C2)NC2=CC(=C(C(=C2)OC)OC)OC | C20H19N5O3
